US05386050
In the same apparatus and procedures as EXAMPLE 1, 8.5 g (0.034 mole of 3-(2,5-dimethylphenyl)-1,1-dichloro-1-silabutane, 8.7 g (0.10 mole) of 1-hexene, and 120 μl of 1% chloroplatinic acid in isopropanol were placed and refluxed under the dry nitrogen atmosphere for 3 hours. Vacuum distillation of the reaction products gave 7.4 g (bp, 130°-3° C./0.6 mmHg) of 4,4-dichloro-2-(2,5-dimethylphenyl)-4-siladecane.

reactant | 3-(2,5-dimethylphenyl)-1,1-dichloro-1-silabutane | 0.034 mole | CC1=C(C=C(C=C1)C)C(C[SiH](Cl)Cl)C | C11H16Cl2Si
reactant | 1-hexene | 0.10 mole, 8.7 g | C=CCCCC | C6H12
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | 120 μl | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 4,4-dichloro-2-(2,5-dimethylphenyl)-4-siladecane | 7.4 g | Cl[Si](CC(C)C1=C(C=CC(=C1)C)C)(CCCCCC)Cl | C17H28Cl2Si
